US07893058B2
Step 1: 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-nicotinamide
In the same way as described for Compound 209, step 2, using 5-bromo-nicotinamide (0.2 g, 0.99 mmol), bis(pinacolato)diboron (0.27 g, 1.09 mmol), PdCl2dppf (0.024 g, 0.029 mol) and KOAc (0.29 g, 2.98 mmol) suspended in dioxane (2 mL). The crude compound is used in the next step without further purification.

reactant | 5-bromo-nicotinamide | 0.99 mmol, 0.2 g | BrC=1C=NC=C(C(=O)N)C1 | C6H5BrN2O
reactant | bis(pinacolato)diboron | 1.09 mmol, 0.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 2.98 mmol, 0.29 g | CC(=O)[O-].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-nicotinamide | CC1(OB(OC1(C)C)C=1C=NC=C(C(=O)N)C1)C | C12H17BN2O3
